US08981111B2
A solution of (3-bromo-4-methoxyphenyl)[3-chloro-5-(trifluoromethyl)pyridin-2-yl]methanone (8.90 g, 22.5 mmol) and hydroxylamine hydrochloride (3.92 g, 56.3 mmol) in pyridine (60 mL) was stirred 2 h at 50° C. then overnight at room temperature. After removal of the solvent in vacuo, addition of water (50 mL) and extraction with ethyl acetate (3×40 mL), the combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on silica gel to afford 1-(3-bromo-4-methoxyphenyl)-1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-N-hydroxymethanimine [9.00 g, yield 88%; HPLC/MS: m/z=410 (M+H); log P(HCOOH)=3.37].

reactant | (3-bromo-4-methoxyphenyl)[3-chloro-5-(trifluoromethyl)pyridin-2-yl]methanone | 22.5 mmol, 8.90 g | BrC=1C=C(C=CC1OC)C(=O)C1=NC=C(C=C1Cl)C(F)(F)F | C14H8BrClF3NO2
reactant | hydroxylamine hydrochloride | 56.3 mmol, 3.92 g | Cl.NO
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3-bromo-4-methoxyphenyl)-1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-N-hydroxymethanimine | 9.00 g, yield 88% | BrC=1C=C(C=CC1OC)C(=NO)C1=NC=C(C=C1Cl)C(F)(F)F | C14H9BrClF3N2O2
